US04808599
Thiophene-2-carboxaldehyde (27.4 cc), 3-benzoylpropionic acid (44.5 g), acetic anhydride (71 cc) and fused potassium acetate (20.5 g) are heated overnight at 80° C. The mixture is cooled to 40° C., chloroform is added and then poured onto crushed ice. Extraction is carried out with chloroform, the organic phase is washed with a decinormal sodium hydroxide solution, it is dried over magnesium sulfate and evaporated under reduced pressure. The residue is stirred for 45 minutes in 40°-60° petroleum spirit, filtered and dried. 5-Phenyl-3-(2-thienylmethylene)-2-furanone (45.3 g), m.p. 141° C., is thereby isolated.

reactant | Thiophene-2-carboxaldehyde | 27.4 cc | S1C(=CC=C1)C=O | C5H4OS
reactant | 3-benzoylpropionic acid | 44.5 g | C(C1=CC=CC=C1)(=O)CCC(=O)O | C10H10O3
reactant | acetic anhydride | 71 cc | C(C)(=O)OC(C)=O | C4H6O3
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 5-Phenyl-3-(2-thienylmethylene)-2-furanone | 45.3 g | C1(=CC=CC=C1)C1=CC(C(O1)=O)=CC=1SC=CC1 | C15H10O2S
